US07250442B2
{3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-2-oxo-2,3-dihydro-indol-1-yl}-acetonitrile
Under an N2 atmosphere, dissolve 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1,3-dihydro-indol-2-one (2.5 g, 4.15 mmol) in dry DMF (50 mL). Cool the reaction to 0° C. Add a solution of potassium t-butoxide (1.0 M) in THF (4.57 mL). Allow the reaction to stir at 0° C. for 10 minutes. Add bromoacetonitrile (0.32 mL, 4.57 mmol), and allow the reaction to warm to room temperature. Stir the reaction at room temperature overnight. Dilute the reaction with water (200 mL) and diethyl ether (200 mL). Separate the layers and wash the aqueous layer with diethyl ether (100 mL). Combine the organic layers. Wash the diethyl ether with brine (100 mL), and separate the layers. Dry the organic layer with sodium sulfate and concentrate in vacuo. Purify the crude oil by flash column chromatography. Elute the column with 20% ethyl acetate in hexanes to give 1.92 g (72%) of the title compound: 1H NMR(CDCl3): δ7.36 (td, 1H), 7.29-7.26 (m, 1H), 7.17 (td, 1H), 7.06 (d, 1H), 6.77 (s, 4H), 4.72 (s, 2H), 2.12 (s, 12H), 1.01 (s, 18H), 0.16 (s, 6H) 0.16 (s, 6H).

reactant | 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1,3-dihydro-indol-2-one | 4.15 mmol, 2.5 g | C(C)(C)(C)[Si](OC1=C(C=C(C=C1C)C1(C(NC2=CC=CC=C12)=O)C1=CC(=C(C(=C1)C)O[Si](C)(C)C(C)(C)C)C)C)(C)C | C36H51NO3Si2
reactant | potassium t-butoxide | 1.0 M | CC(C)([O-])C.[K+]
reactant | bromoacetonitrile | 4.57 mmol, 0.32 mL | BrCC#N | C2H2BrN
reactant | water | 200 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | THF | 4.57 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | {3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-2-oxo-2,3-dihydro-indol-1-yl}-acetonitrile | 1.92 g, 72% | C(C)(C)(C)[Si](OC1=C(C=C(C=C1C)C1(C(N(C2=CC=CC=C12)CC#N)=O)C1=CC(=C(C(=C1)C)O[Si](C)(C)C(C)(C)C)C)C)(C)C | C38H52N2O3Si2
